US05387710
Thionyl chloride (0.2 ml) was added dropwise to ethanol (5 ml) with stirring at -10° C. After stirring for ten minutes, 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-2-methylpropionic acid (0.49 g) was added portionwise to the mixture. The reaction mixture was stirred at ambient temperature for 1 hour and then refluxed for 3 hours. After cooling, the mixture was poured into an aqueous solution of sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel with chloroform-methanol (100:1) to give ethyl 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-2-methylpropionate (0.43 g).

reactant | Thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-2-methylpropionic acid | 0.49 g | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)OC(C(=O)O)(C)C | C22H27NO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-2-methylpropionate | 0.43 g | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)OC(C(=O)OCC)(C)C | C24H31NO3
